2145-01-12 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2145-1-11**] 04:45 PM
   -  for airway protectio and ability to sedate for IV access
 MULTI LUMEN - START [**2145-1-11**] 07:00 PM
   - L IJ placed
   Chemotherapy with cytoxan given O/N per neuro's recs
 ARTERIAL LINE - START [**2145-1-12**] 01:23 AM
   SUBJ:
   intubated and sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-1-11**] 03:40 PM
   Haloperidol (Haldol) - [**2145-1-11**] 03:55 PM
   Fentanyl - [**2145-1-11**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-11**] 10:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-12**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 92 (89 - 170) bpm
   BP: 129/70(82){110/58(71) - 139/120(123)} mmHg
   RR: 18 (13 - 39) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
    CVP: 8 (6 - 356)mmHg
   Total In:
                                                                  2,934 mL
                                                                  1,312 mL
   PO:
   TF:
   IVF:
                                                                  2,934 mL
                                                                  1,312 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    660 mL
   Urine:
                                                                    700 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,834 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (400 - 500) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 10
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 93%
   ABG: 7.38/41/111/24/Units: mEq/L
   Ve: 8.2 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   440 K/uL
   12.9 g/dL
   93 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   142 mEq/L
   39.4 %
   28.7 K/uL
        [image002.jpg]
                             [**2145-1-11**]  05:11 PM
                             [**2145-1-11**]  07:59 PM
                             [**2145-1-12**]  01:35 AM
                             [**2145-1-12**]  05:45 AM
   WBC
   25.1
   28.7
   Hct
   36.1
   39.4
   Plt
   430
   440
   Cr
   0.7
   0.7
   TCO2
   21
   25
   Glucose
   134
   93
   Other labs: PT / PTT / INR:13.4/26.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:89.5 %, Lymph:5.8 %, Mono:4.4 %,
   Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Imaging: [**1-11**] CXR with line and ETT in good position
   Microbiology: Toxo IgM/G PND
   RPR negative
   Lyme serology: PND
   Assessment and Plan
   27 year old woman with concentric sclerosis exacerbation, now intubated
   and sedated for AMS while receiving chemo per neurology.
   Begin cyclophosphamide tonight per Dr. [**Last Name (STitle) **]
s orders; continue
   high-dose methylprednisolone for now.  She needs Mesna for cystitis
   prophylaxis.
   Her leucocytosis is likely secondary to steroids; we will monitor for
   infection.
   We will check a UA given her abnormal urine color (she has not yet
   received cytoxan, so not cystitis).
 Concentric Sclerosis
   -          appreciate Dr. [**Last Name (STitle) **]
s input, f/u recs
   -          cyclophosphamide and mesla administered yesterday
   -          monitor for hematuria /cystitis (had similar reaction in
   past)..pt currently with hematuria but also with period
   -          methylprednisolone q24h per neuro recs
   -          f/u microbio to rule out other etiologies (lyme, toxo)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - should remain on vent at current settings for now,
   - VAP prophylaxis
 DELIRIUM / CONFUSION
   -          appartently [**1-2**] concentric sclerosis
   -          keep pt sedated while on vent and receiving chemotherapy
 LEUKOCYTOSIS
   - likely [**1-2**] steroids, monitor for localizing signs of infection and
   fever
   ICU Care
   Nutrition:
   Comments: NPO for now, consider nutrition c/s for TFs in near future if
   remains intubated
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-1-11**] 07:00 PM
   Arterial Line - [**2145-1-12**] 01:23 AM
   Plan for PICC placement today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-12 10:21:00 Physician Attending Progress Note
Chief Complaint: concentric sclerosis, agitation, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2145-1-11**] 04:45 PM
 MULTI LUMEN - START [**2145-1-11**] 07:00 PM
 ARTERIAL LINE - START [**2145-1-12**] 01:23 AM
   Received cytoxan overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 175 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-1-11**] 03:40 PM
   Haloperidol (Haldol) - [**2145-1-11**] 03:55 PM
   Fentanyl - [**2145-1-11**] 06:50 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-11**] 10:21 PM
   Pantoprazole (Protonix) - [**2145-1-12**] 08:01 AM
   Other medications:
   cytoxan, zofran, mesna, solumedrol, PPI, SQH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-12**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (87 - 170) bpm
   BP: 137/89(104) {121/77(90) - 140/90(106)} mmHg
   RR: 16 (13 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
   CVP: 13 ()mmHg
   Total In:
                                                                  2,934 mL
                                                                  1,517 mL
   PO:
   TF:
   IVF:
                                                                  2,934 mL
                                                                  1,517 mL
   Blood products:
   Total out:
                                                                  1,100 mL
                                                                    780 mL
   Urine:
                                                                    700 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,834 mL
                                                                    737 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (400 - 500) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.38/41/111/24/Units: mEq/L
   Ve: 8.9 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), distant breath sounds
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   440 K/uL
   93 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   13 mg/dL
   110 mEq/L
   142 mEq/L
   39.4 %
   28.7 K/uL
        [image002.jpg]
                             [**2145-1-11**]  05:11 PM
                             [**2145-1-11**]  07:59 PM
                             [**2145-1-12**]  01:35 AM
                             [**2145-1-12**]  05:45 AM
   WBC
   25.1
   28.7
   Hct
   36.1
   39.4
   Plt
   430
   440
   Cr
   0.7
   0.7
   TCO2
   21
   25
   Glucose
   134
   93
   Other labs: PT / PTT / INR:13.4/26.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:89.5 %, Lymph:5.8 %, Mono:4.4 %,
   Eos:0.3 %, Lactic Acid:3.0 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   CXR with possible pulmonary edema (vs. artifact from obesity).  [**Month (only) 60**]
   also be some hilar fullness.
   Assessment and Plan
   27 y/o woman with concentric sclerosis now complicated by agitation,
   delirium, and respiratory failure.
   - Today, we will get PICC line (likely more stable than an IJ central
   line if she is agitated).
   - Once vascular access is secured, will attempt to lighten sedation and
   assess underlying status.  Ventilator weaning/liberation to follow this
   assessment.
   - Cytoxan, steroids, and MESNA per Dr. [**Last Name (STitle) **].  Follow for cystitis,
   hypokalemia, hyperglycemia, etc.
   - we will follow leukocytosis (likely secondary to steroids) and anemia
   - begin transitioning sedation to shorter-acting
   ICU Care
   Nutrition:
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2145-1-11**] 07:00 PM
   Arterial Line - [**2145-1-12**] 01:23 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40
   Patient is critically ill

2145-01-13 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2145-1-12**] 02:58 PM
   Rt upper arm
   Foley was clogged, bladder irrigation for bloody urine
   Received cytoxan
   Tolerated PS 8/5 all day; increased to [**7-9**] at night for borderline O2
   sat's
   DC'd fentanyl/versed and started propofol
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-12**] 08:01 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-13**] 05:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-13**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 91 (79 - 97) bpm
   BP: 150/102(108){139/63(80) - 150/102(108)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
    CVP: 8 (8 - 14)mmHg
   Total In:
                                                                  5,939 mL
                                                                    467 mL
   PO:
   TF:
                                                                    203 mL
   IVF:
                                                                  5,939 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,118 mL
                                                                      0 mL
   Urine:
                                                                  1,118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,821 mL
                                                                    467 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 917 (917 - 917) mL
   PS : 8 cmH2O
   RR (Set): 9
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 13 cmH2O
   SpO2: 94%
   ABG: 7.41/39/75/27/Units: mEq/L
   Ve: 7.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), tachy no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/l bases)
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   355 K/uL
   11.7 g/dL
   115 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   109 mEq/L
   143 mEq/L
   34.9 %
   28.7 K/uL
        [image002.jpg]
                             [**2145-1-11**]  05:11 PM
                             [**2145-1-11**]  07:59 PM
                             [**2145-1-12**]  01:35 AM
                             [**2145-1-12**]  05:45 AM
                             [**2145-1-12**]  03:36 PM
                             [**2145-1-12**]  03:50 PM
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
   WBC
   25.1
   28.7
   Hct
   36.1
   39.4
   36.6
   34.9
   Plt
   [**Telephone/Fax (3) 871**]
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   21
   25
   25
   26
   Glucose
   134
   93
   144
   115
   Other labs: PT / PTT / INR:13.4/26.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:2.6 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Imaging: none new
   Microbiology:
   Toxo negative IgG, IgM
   RPR negative
   Lyme PND
   Assessment and Plan
   27 year old woman with concentric sclerosis exacerbation, now intubated
   and sedated for AMS while receiving chemo per neurology.
 Concentric Sclerosis
   -          continue cyclophosphamide and mesla per neuro recs
   -          continue methylprednisolone q24h x 5 day course per neuro
   recs
   -          MRI brain today to assess for cerebral edema
   -          neuro also recommending plasmapheresis, will c/s blood bank
   -          d/c bladder irrigation as she had hematuria prior to
   cyclophosphamide and would be too early for cystitis
   -          ruled out for toxo, syphilis, lyme still PND
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          RSBI 15 this AM, but hold off on extubation as may need
   pheresis line placement, brain imaging
   -          Repeat ABG as arterial line not getting blood return
 DELIRIUM / CONFUSION
   -          Due to underlying neurological d/o
 TACHYCARDIA
   -          also likely due to underlying neurological disorder. CVP ok,
   but will bolus 1L fluid challenge to r/o hypovolemia
 LEUKOCYTOSIS
   -          likely [**1-2**] steroids, monitor for localizing signs of
   infection and fever
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-13**] 12:00 AM 40 mL/hour
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2145-1-11**] 07:00 PM
   Arterial Line - [**2145-1-12**] 01:23 AM
 will d/c today as not functioning
   Midline - [**2145-1-12**] 02:58 PM
   ? needs a pheresis line
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-13 11:03:00 Physician Attending Progress Note
Chief Complaint: concentric scerosis --> delirium --> resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MIDLINE - START [**2145-1-12**] 02:58 PM
   Rt upper arm
   Hematuria --> bladder irrigation started
   Attempt at PICC but unable to thread --> midline
   Received cyclophosphamide and steroids
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-13**] 05:16 AM
   Pantoprazole (Protonix) - [**2145-1-13**] 08:13 AM
   Other medications:
   cytoxan, zofran, mesna, propofol, solumedrol 1000 over 8 hours
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-13**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 89 (79 - 100) bpm
   BP: 144/59(77) {139/58(77) - 150/102(108)} mmHg
   RR: 11 (9 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
   CVP: 12 (8 - 14)mmHg
   Total In:
                                                                  5,939 mL
                                                                  1,136 mL
   PO:
   TF:
                                                                    250 mL
   IVF:
                                                                  5,939 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  1,118 mL
                                                                      0 mL
   Urine:
                                                                  1,118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,821 mL
                                                                  1,136 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 917 (917 - 917) mL
   PS : 8 cmH2O
   RR (Set): 9
   RR (Spontaneous): 8
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 13 cmH2O
   SpO2: 95%
   ABG: 7.41/39/75/27/Units: mEq/L
   Ve: 7.1 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: noxious stimuli.  Eyes midline.  Decerebrate
   posturing but also some flexion. Tone increased.
   Labs / Radiology
   11.7 g/dL
   355 K/uL
   115 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.7 mEq/L
   11 mg/dL
   109 mEq/L
   143 mEq/L
   34.9 %
   20.0 K/uL
        [image002.jpg]
                             [**2145-1-11**]  05:11 PM
                             [**2145-1-11**]  07:59 PM
                             [**2145-1-12**]  01:35 AM
                             [**2145-1-12**]  05:45 AM
                             [**2145-1-12**]  03:36 PM
                             [**2145-1-12**]  03:50 PM
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
   WBC
   25.1
   28.7
   20.0
   Hct
   36.1
   39.4
   36.6
   34.9
   Plt
   [**Telephone/Fax (3) 871**]
   Cr
   0.7
   0.7
   0.8
   0.7
   TCO2
   21
   25
   25
   26
   Glucose
   134
   93
   144
   115
   Other labs: PT / PTT / INR:13.4/26.3/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:2.6 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR: hilar fullness
   Microbiology: RPR (-), Lyme pnd
   Assessment and Plan
   27 year old woman with concentric sclerosis.  She developed severe
   delirium and required intubation for management.  Her neurologic status
   does not appear to have improved with immunosuppression so far.
 Concentric Sclerosis
   -- management per Dr. [**Last Name (STitle) **].  MRI and plasmapheresis are both being
   considered.
   -- continue immunosuppression for now.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- from a respiratory standpoint, she would be a potential SBT
   candidate.
   -- however, she will require deep sedation for MRI and potential
   pheresis line procedures, so will leave intubated until these
   procedures are done
 DELIRIUM / CONFUSION
   -- sedated
 LEUKOCYTOSIS
   -- decreasing; likely related to steroids
 TACHYCARDIA
   -- likely hypovolemic, given falling CVP.  Volume challenge.
   ICU Care
   Nutrition:  tube feeds
   Glycemic Control:  adequate
   Lines:
   Multi Lumen - [**2145-1-11**] 07:00 PM
   Arterial Line - [**2145-1-12**] 01:23 AM
   Midline - [**2145-1-12**] 02:58 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds.
   Discussed in detail with Dr. [**Last Name (STitle) **], with vascular access team, and with
   blood bank team.
   Code status: Full code
   Disposition :ICU
   Total time spent: 70 minutes
   Patient is critically ill

2145-01-14 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-1-13**] 10:03 AM
 PHERESIS CATHETER - START [**2145-1-13**] 03:30 PM
   Placed in IR
 MULTI LUMEN - STOP [**2145-1-13**] 10:00 PM
   hypoxic to 88-89% on vent after pheresis line.. Tried suctioning and
   diuresis initially without much effect. CXR showed no PTX but ?RUL
   opacity. Oxygenation improved with increased PEEP and positioning
   Pheresis c/b episode of hypotension to high 70's, resolved with 500cc
   NS x2
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-13**] 08:13 AM
   Furosemide (Lasix) - [**2145-1-13**] 05:08 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-13**] 10:00 PM
   Fentanyl - [**2145-1-14**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-14**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 115 (82 - 145) bpm
   BP: 111/74(79){76/32(33) - 164/113(121)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
    CVP: 13 (7 - 17)mmHg
   Total In:
                                                                  5,309 mL
                                                                    842 mL
   PO:
   TF:
                                                                  1,069 mL
                                                                    487 mL
   IVF:
                                                                  4,060 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  3,990 mL
                                                                    625 mL
   Urine:
                                                                  3,990 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,319 mL
                                                                    217 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 720 (608 - 820) mL
   PS : 8 cmH2O
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: 7.46/40/66/28/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   260 K/uL
   12.7 g/dL
   161 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   14 mg/dL
   107 mEq/L
   144 mEq/L
   38.0 %
   26.3 K/uL
        [image002.jpg]
                             [**2145-1-12**]  05:45 AM
                             [**2145-1-12**]  03:36 PM
                             [**2145-1-12**]  03:50 PM
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
   WBC
   28.7
   20.0
   16.8
   26.3
   Hct
   39.4
   36.6
   34.9
   34.5
   38.0
   Plt
   [**Telephone/Fax (3) 892**]60
   Cr
   0.7
   0.8
   0.7
   0.7
   TCO2
   25
   26
   28
   29
   Glucose
   93
   144
   115
   161
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:3.0 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   [**1-13**] CXR
   Placement of a new central venous line over the right internal jugular
   vein.
   The catheter projects over the superior vena cava, the tip is located 2
    cm
   below the level of the carina.  As compared to the previous examination
   , there
   is increasing loss of transparency of the right upper lobe, this could
   be
   consistent of developing pneumonia.  Otherwise, the appearance of the l
   [**Doctor Last Name **]
   parenchyma is unchanged.
   Microbiology:
   Lyme, RPR, and toxo all negative
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          hypoxia may be [**1-2**] underrecruitment of lung / atelectasis
   vs. VAP
   -          no evidence of volutrauma / PTX to explain hypoxia
   -          PCP is also on the differential
   -          plan for bronch today, send washings for gram stain culture
   and PCP
   [**Name Initial (PRE) **]          begin [**Name9 (PRE) 898**]/zosyn/cipro to double cover gram negatives
   -          should remain intubated for now, wean down PEEP as tolerated
 Concentric Sclerosis
   -          appreciate neuro and onc input
   -          continue cyclophosphamide and mesla, CBI with cytoxan per
   onc recs
   -          taper steroids per neuro recs, 500mg solumedrol today and
   tomorrow
   -          continue plasmapheresis on Friday
   -          MRI brain today
 DELIRIUM / CONFUSION
   -          from underlying CNS pathology, also explains her occasional
   sinus tachycardia
   -          continue sedation with propofol and fentanyl
 HYPOTENSION (NOT SHOCK)
   -          in setting of large volume plasma exchange, was fluid
   repsonsive
 LEUKOCYTOSIS
   -          Increased today but remains afebrile
   -          Given ? opacity in RUL, will pan culture and begin
   antibiotics as above
 .H/O DEPRESSION
   -          holding antidepressants
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-14**] 03:44 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-14 11:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, concentric sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-1-13**] 10:03 AM
 PHERESIS CATHETER - START [**2145-1-13**] 03:30 PM
   Placed in IR
 MULTI LUMEN - STOP [**2145-1-13**] 10:00 PM
   Hypoxemia after coming back from pheresis line placementthat was PEEP
   and position-responsive.
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-13**] 05:08 PM
   Fentanyl - [**2145-1-14**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-14**] 06:30 AM
   Pantoprazole (Protonix) - [**2145-1-14**] 08:00 AM
   Other medications:
   Cytoxan, Mesna, Methylprednisolone; others per [**Month (only) **] (reviewed on rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-14**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 102 (82 - 145) bpm
   BP: 113/49(65){76/32(33) - 164/113(121)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
   CVP: 13 (7 - 17)mmHg
   Total In:
                                                                  5,309 mL
                                                                  1,733 mL
   PO:
   TF:
                                                                  1,069 mL
                                                                    779 mL
   IVF:
                                                                  4,060 mL
                                                                    954 mL
   Blood products:
   Total out:
                                                                  3,990 mL
                                                                    845 mL
   Urine:
                                                                  3,990 mL
                                                                    845 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,319 mL
                                                                    888 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 840 (608 - 840) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.46/40/66/28/4
   Ve: 10.9 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: very distant breath sounds
   Abdominal: Soft, Obese
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   No(t) Oriented (to): , Movement: No spontaneous movement, Tone: Not
   assessed
   Labs / Radiology
   12.7 g/dL
   260 K/uL
   161 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   14 mg/dL
   107 mEq/L
   144 mEq/L
   38.0 %
   26.3 K/uL
        [image002.jpg]
                             [**2145-1-12**]  05:45 AM
                             [**2145-1-12**]  03:36 PM
                             [**2145-1-12**]  03:50 PM
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
   WBC
   28.7
   20.0
   16.8
   26.3
   Hct
   39.4
   36.6
   34.9
   34.5
   38.0
   Plt
   [**Telephone/Fax (3) 892**]60
   Cr
   0.7
   0.8
   0.7
   0.7
   TCO2
   25
   26
   28
   29
   Glucose
   93
   144
   115
   161
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:3.0 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR shows probable RUL volume loss and opacity
   Assessment and Plan
   27 year old woman with concentric sclerosis leading to respiratory
   failure.  Her major new finding today is possible RUL volume loss vs.
   developing RUL pneumonia.
 VOLUME LOSS VS. PNEUMONIA (VAP)
   -- bronchoscopy for airway exam and cultures including
   immunocompromised studies
   -- begin treatment for ventilator-associated pneumonia after bronch
   -- if bronchoscopy unrevealing, CT chest
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- wean PEEP as tolerated after MRI
   -- pneumonia management as above
 Concentric Sclerosis
   -- cytoxan, plasmapheresis, steroids per Dr. [**Last Name (STitle) **]
   -- clarify Mesna dose given plasmapheresis
   -- TBI during cytoxan
   -- MRI today
 HYPOTENSION (NOT SHOCK)
   -- now stable
   ICU Care
   Nutrition: consider beginning tube feeds when back from MRI
   Glycemic Control:  Comments: BS ~150-216.  We are decreasing steroids,
   so glycemic control will likely improve without changing insulin dose
   at this point.
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min

2145-01-15 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-1-14**] 11:43 AM
   BAL results growing GPCs, gram negative diplococci
 SPUTUM CULTURE - At [**2145-1-14**] 11:45 AM
 MAGNETIC RESONANCE IMAGING - At [**2145-1-14**] 12:00 PM
   showed improvement in multiple lesions
 BLOOD CULTURED - At [**2145-1-14**] 02:00 PM
 URINE CULTURE - At [**2145-1-14**] 02:00 PM
   got cytoxan and mesla with CBI
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-14**] 07:47 PM
   Ciprofloxacin - [**2145-1-14**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-15**] 01:40 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-14**] 08:00 AM
   Fentanyl - [**2145-1-15**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-15**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-15**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 92 (84 - 115) bpm
   BP: 112/61(72){100/49(65) - 137/82(95)} mmHg
   RR: 10 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  6,925 mL
                                                                  1,241 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    529 mL
   IVF:
                                                                  5,177 mL
                                                                    682 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                      0 mL
   Urine:
                                                                  1,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,330 mL
                                                                  1,241 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 780 (753 - 837) mL
   PS : 8 cmH2O
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: 7.46/42/85.[**Numeric Identifier 128**]/29/5
   Ve: 8.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   185 K/uL
   11.1 g/dL
   124 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   32.5 %
   20.4 K/uL
        [image002.jpg]
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
   WBC
   20.0
   16.8
   26.3
   20.4
   Hct
   36.6
   34.9
   34.5
   38.0
   32.5
   Plt
   355
   334
   260
   185
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   26
   28
   29
   31
   Glucose
   115
   161
   152
   124
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Imaging: [**1-14**] MR BRAIN
   IMPRESSION:  The previously identified multiple brain enhancing lesions
   demonstrate absence of enhancement as described above.  There is also
   less
   restricted diffusion in these lesions.  There is no evidence of new
   lesions or
   infratentorial abnormalities.  Again, these findings with previous
   clinical
   history are highly suspicious for multiple sclerosis (Concentric type).
   Microbiology: [**1-14**] BCx PND
   [**1-14**] UCx: PND
   [**1-14**] Sputum (endotrach): gram stain oropharyngeal flora, cultures PND
   [**1-14**] RRV screen: Respiratory viral antigens not detected
   [**1-14**] BAL: GPC, GNC, GPRs, negative for PCP
   Assessment and [**Name9 (PRE) 440**]
   27F with concentric sclerosis here for AMS, sedation while undergoing
   chemo, hospital course c/b possible VAP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 intubated for airway
   protection while sedated
   -          ABG with adequate oxygenation
   -          Aeration in RUL appears improved after bronchoscopy, was
   likely [**1-2**] mucus plugging
   -          Wean PSV down to 8/8 today, repeat ABG in PM
 POSSIBLE VAP
   -          Continue vanc/zosyn/cipro, tailor per BAL culture results
   -          If no growth by Sunday (s/p 3 days of culture), would d/c
   all VAP antibiotics
   -          PCP and [**Name9 (PRE) 908**] have been ruled out
 CONCENTRIC SCLEROSIS
   -          appreciate neuro and onc input
   -          continue cyclophosphamide and mesla with next dose 2/16 -
   maintain CBI per onc recs
   -          MRI brain with some interval improvement
   -          taper steroids per neuro recs, 500mg solumedrol today, f/u
   neuro recs for rest of taper
   -          plasmapheresis today, would not give any volume prior to
   procedure as was net positive ~ 5L yesterday
 DELIRIUM / CONFUSION
   -          from underlying CNS pathology
   -          continue sedation with propofol and fentanyl to maintain IV
   access, pheresis line
 LEUKOCYTOSIS
   -          likely due to steroids but may mask response to underlying
   infection
   -          f/u pan cultures
   -          VAP antibiotics until Sunday as above
 .H/O DEPRESSION
   -          holding antidepressants
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-15**] 04:39 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Comments: a-line attempted, unsuccessful
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI deferred
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2145-01-15 10:09:00 Physician Attending Progress Note
Chief Complaint: respiratory failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-1-14**] 11:43 AM
 SPUTUM CULTURE - At [**2145-1-14**] 11:45 AM
 MAGNETIC RESONANCE IMAGING - At [**2145-1-14**] 12:00 PM
 BLOOD CULTURED - At [**2145-1-14**] 02:00 PM
 URINE CULTURE - At [**2145-1-14**] 02:00 PM
   Tolerated bronchoscopy.  MRI reportedly appears improved.
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-1-14**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-15**] 01:40 AM
   Vancomycin - [**2145-1-15**] 09:03 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-1-15**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-15**] 06:00 AM
   Pantoprazole (Protonix) - [**2145-1-15**] 08:03 AM
   Other medications:
   Cytoxan, Mesna, Solumedrol, propofol.  Others per [**Month (only) **] (reviewed on
   rounds).
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-15**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 88 (84 - 115) bpm
   BP: 112/68(77) {100/55(65) - 137/82(95)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  6,925 mL
                                                                  2,155 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    743 mL
   IVF:
                                                                  5,177 mL
                                                                  1,293 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                      0 mL
   Urine:
                                                                  1,595 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,330 mL
                                                                  2,155 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 851 (753 - 851) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.46/42/85.[**Numeric Identifier 128**]/29/5
   Ve: 8.9 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: distant breath sounds
   Abdominal: Non-tender, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   185 K/uL
   124 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   32.5 %
   20.4 K/uL
        [image002.jpg]
                             [**2145-1-12**]  07:36 PM
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
   WBC
   20.0
   16.8
   26.3
   20.4
   Hct
   36.6
   34.9
   34.5
   38.0
   32.5
   Plt
   355
   334
   260
   185
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   26
   28
   29
   31
   Glucose
   115
   161
   152
   124
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Imaging: MRI improved per Dr. [**Last Name (STitle) **]
   CXR shows improved RUL volume loss
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
 DELIRIUM / CONFUSION
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 .H/O DEPRESSION
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-15**] 04:39 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2145-01-15 18:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, concentric sclerosis
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2145-1-14**] 11:43 AM
 SPUTUM CULTURE - At [**2145-1-14**] 11:45 AM
 MAGNETIC RESONANCE IMAGING - At [**2145-1-14**] 12:00 PM
 BLOOD CULTURED - At [**2145-1-14**] 02:00 PM
 URINE CULTURE - At [**2145-1-14**] 02:00 PM
   Tolerated bronchoscopy without complications.
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-1-14**] 08:00 PM
   Vancomycin - [**2145-1-15**] 09:03 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-15**] 05:36 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2145-1-15**] 02:15 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-15**] 06:00 AM
   Pantoprazole (Protonix) - [**2145-1-15**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-15**] 06:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 99 (86 - 110) bpm
   BP: 116/62(79){116/62(79) - 125/76(90)} mmHg
   RR: 27 (10 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  6,925 mL
                                                                  3,071 mL
   PO:
             TF:
                                                                  1,423 mL
                                                                    849 mL
   IVF:
                                                                  5,177 mL
                                                                  2,102 mL
   Blood products:
   Total out:
                                                                  1,595 mL
                                                                    300 mL
   Urine:
                                                                  1,595 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,330 mL
                                                                  2,771 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 851 (753 - 851) mL
   PS : 8 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 94%
   ABG: 7.42/42/86/29/4
   Ve: 11.7 L/min
   PaO2 / FiO2: 143
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, midposition pupils
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ), very distant breath
   sounds
   Abdominal: Soft, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed, She is unresponsive to noxious stimuli,
   likely due to sedation
   Labs / Radiology
   11.1 g/dL
   185 K/uL
   124 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   32.5 %
   20.4 K/uL
        [image002.jpg]
                             [**2145-1-12**]  11:36 PM
                             [**2145-1-13**]  04:52 AM
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
   WBC
   20.0
   16.8
   26.3
   20.4
   Hct
   34.9
   34.5
   38.0
   32.5
   Plt
   355
   334
   260
   185
   Cr
   0.7
   0.7
   0.6
   0.6
   TCO2
   26
   28
   29
   31
   30
   Glucose
   115
   161
   152
   124
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   27 year-old woman with respiratory failure, admitted with exacerbation
   of concentric sclerosis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          wean PEEP.  If tolerates, would wean FiO2
   -          place arterial line
 VAP (presumptive)
   -- follow bronch cultures
   -- continue broad-spectrum antibiotics pending cultures.  If negative
   on Sunday, d/c antibiotics (cx obtained before ABX)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   -- cytoxan, steroids, plasmapheresis per Dr. [**Last Name (STitle) **].
   -- MRI suggest improvement.
   -- exam later today with lighter sedation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: [**Month (only) 60**] need
   increased insulin if hyperglycemia persists
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Arterial Line - [**2145-1-15**] 02:36 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   D/W Dr. [**Last Name (STitle) **]
   [**Name (STitle) 66**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2145-01-16 07:36:00 Physician Resident Progress Note
Chief Complaint: 27F with concentric sclerosis tx with chemotherapy and
   plasmapheresis
   24 Hour Events:
   PEEP and FIO2 weaned
   Pheresis done, patient tolerated well
   Art line placed
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-1-14**] 08:00 PM
   Vancomycin - [**2145-1-15**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-16**] 02:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-15**] 08:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2145-1-16**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 88 (83 - 120) bpm
   BP: 103/58(71){89/58(68) - 151/86(106)} mmHg
   RR: 10 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,861 mL
                                                                  1,282 mL
   PO:
             TF:
                                                                  1,801 mL
                                                                    528 mL
   IVF:
                                                                  2,890 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                  3,150 mL
   Urine:
                                                                  1,800 mL
                                                                  3,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,061 mL
                                                                 -1,868 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 810 (477 - 810) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.44/50/86/30/7
   Ve: 7.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   185 K/uL
   11.4 g/dL
   137 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   143 mEq/L
   32.6 %
   17.7 K/uL
        [image002.jpg]
   CXR read pending L pleural effusion
   Micro
   [**1-8**] lyme- rpr- toxo igg and igm
   [**1-14**] BAL gram 1+ polys 2+ GPC pairs clusters, 1+ GN diplococci, 1+ GPRs
   Cx with 10-100,000 oropharyngeal flora
   Staph aureus 10-100,000 (sensitivities pending)
   Legionella cx NGTD, fungal and AFB cx NGTD (AFB smear negative)
   [**1-14**] viral antigen screen negative, cx NGTD
   [**1-14**] sputum gram [**9-25**] polys, 3+ multiple organisms c/w oral flora
   Staph aureus moderate growth, fungal and AFB cx NGTD
   [**1-14**] urine cx E. coli >100,000 sensitivities pending
   [**1-14**] blood cx NGTD
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
   WBC
   16.8
   26.3
   20.4
   17.7
   Hct
   34.5
   38.0
   32.5
   32.6
   Plt
   [**Telephone/Fax (3) 930**]85
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   29
   31
   30
   35
   Glucose
   161
   152
   124
   137
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   27F with concentric sclerosis here for AMS, sedation while undergoing
   chemo, hospital course c/b possible VAP
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 intubated for airway
   protection while sedated
   -          ABG with adequate oxygenation
   -          Aeration in RUL appears improved after bronchoscopy, was
   likely [**1-2**] mucus plugging
   -          Wean PSV down to 8/8 today, repeat ABG in PM
 POSSIBLE VAP
   -          Continue vanc/zosyn/cipro, tailor per BAL culture results
   -          If no growth by Sunday (s/p 3 days of culture), would d/c
   all VAP antibiotics
   -          PCP and [**Name9 (PRE) 908**] have been ruled out
 CONCENTRIC SCLEROSIS
   -          appreciate neuro and onc input
   -          continue cyclophosphamide and mesla with next dose 2/16 -
   maintain CBI per onc recs
   -          MRI brain with some interval improvement
   -          taper steroids per neuro recs, 500mg solumedrol today, f/u
   neuro recs for rest of taper
   -          plasmapheresis today, would not give any volume prior to
   procedure as was net positive ~ 5L yesterday
 DELIRIUM / CONFUSION
   -          from underlying CNS pathology
   -          continue sedation with propofol and fentanyl to maintain IV
   access, pheresis line
 LEUKOCYTOSIS
   -          likely due to steroids but may mask response to underlying
   infection
   -          f/u pan cultures
   -          VAP antibiotics until Sunday as above
 .H/O DEPRESSION
   -          holding antidepressants
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Arterial Line - [**2145-1-15**] 02:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-16 11:43:00 Physician Attending Progress Note
Chief Complaint: altered mental status, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2145-1-15**] 02:36 PM
   Had another pheresis yesterday.
   Vent settings weaned down.
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2145-1-14**] 08:00 PM
   Vancomycin - [**2145-1-16**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-16**] 10:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Other medications:
   pantoprazole, insulin, SQ heparin, chlorhexidine, solumedrol 250 mg
   daily (x3 days), propofol at 60
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-16**] 11:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 85 (83 - 120) bpm
   BP: 93/72(80){89/58(68) - 151/86(106)} mmHg
   RR: 9 (9 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,617 mL
                                                                  2,462 mL
   PO:
             TF:
                                                                  1,801 mL
                                                                    713 mL
   IVF:
                                                                  2,646 mL
                                                                  1,539 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,817 mL
                                                                  2,462 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 736 (477 - 810) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 22
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.44/50/86/30/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.4 g/dL
   185 K/uL
   137 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.8 mEq/L
   14 mg/dL
   107 mEq/L
   143 mEq/L
   32.6 %
   17.7 K/uL
        [image002.jpg]
                             [**2145-1-13**]  01:36 PM
                             [**2145-1-13**]  04:22 PM
                             [**2145-1-13**]  05:32 PM
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
   WBC
   16.8
   26.3
   20.4
   17.7
   Hct
   34.5
   38.0
   32.5
   32.6
   Plt
   [**Telephone/Fax (3) 930**]85
   Cr
   0.7
   0.6
   0.6
   0.6
   TCO2
   28
   29
   31
   30
   35
   Glucose
   161
   152
   124
   137
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: RUL infiltrate, increased pulmonary edema.  Bilateral
   pleural effusions.
   Microbiology: BAL: 10-100K oral flora, 10-100K staph (no
   sensitivities).
   Urine: e.coli
   Assessment and Plan
   27 y/o F with concentric sclerosis, intubated for altered mental
   status, now with improving mental status per neuro.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP):  Cont
   vanc/cipro/zosyn pending 72 hours of culture data.  Likely staph VAP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Intubated for altered
   mental status, subsequently developed VAP.  RSBI good today, so will
   try SBT.  Extubation may be limited by mental status.  Decrease
   fentanyl by 25%.  Main barrier is indeed mental status concerns given
   the events around procedures with initial intubation in the setting of
   attempted sedation for PICC line placement.  Will minimize support as
   indicated and work to deliver pheresis on schedule to allow extubation
   as soon as possible.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis:  Pheresis and steroids per neuro.  To get another
   dose of cytoxan today.  Cont CBI.
 DELIRIUM / CONFUSION:  Due to concentric sclerosis.
 HYPOTENSION (NOT SHOCK):  Likely [**1-2**] propofol.
 LEUKOCYTOSIS:  [**1-2**] VAP and UTI.  Improving.
 .H/O DEPRESSION
   ICU Care
   Nutrition:
   Comments: off pending SBT.  Will restart if fails.
   Glycemic Control:  Regular insulin sliding scale, Comments: Will
   tighten sliding scale.
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Arterial Line - [**2145-1-15**] 02:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 minutes
   Patient is critically ill

2145-01-17 07:55:00 Physician Resident Progress Note
Chief Complaint: 27F with concentric sclerosis here for chemotherapy
   and pheresis
   24 Hour Events:
   attempted to place new A line but couldn't thread L side so had to
   abort; A line pressures unreliable and poor consistency with cuff
   pressures. [**Name8 (MD) **] RN had trouble drawing off of A line
   remained hypertensive, agitated requiring significant amount of
   sedation
   Allergies:
   Prednisone psychosis; Sulfa (Sulfonamides) Rash;
   Phenytoin Sodium psychosis;
   Antbiotics
   Vancomycin 1gIV q12 d4
   Zosyn 4.5g IV q8 d4
   Ciprofloxacin 500mg PO q12 d4
   Infusions:
   Fentanyl - 125 mcg/hour
   Other medications
   Heparin SQ
   Methylprednisolone
   Protonix
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2145-1-17**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 95 (79 - 148) bpm
   BP: 111/59(70){86/40(51) - 141/75(91)} mmHg
   RR: 14 (8 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129.9 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  5,866 mL
                                                                  2,492 mL
   PO:
             TF:
                                                                  1,419 mL
                                                                    823 mL
   IVF:
                                                                  4,177 mL
                                                                  1,519 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,750 mL
   Urine:
                                                                    300 mL
                                                                  1,750 mL
   NG:
                                                          (note pt on CBI)
   Stool:
   Drains:
   Balance:
                                                                  5,566 mL
                                                                    742 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 818 (320 - 902) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.45/49/60/34/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   182 K/uL
   10.0 g/dL
   152 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   144 mEq/L
   29.7 %
   11.5 K/uL
        [image002.jpg]
   CXR official read pending, impression is no significant change still
   with pulmonary edema
   Micro
   [**1-17**] sputum gram and culture pending
   [**1-14**] blood NGTD
   [**1-14**] urine cx E coli pan sensitive
   [**1-14**] sputum gram [**9-25**] polys 3+ organisms c/w oral flora; cx with
   moderate growth S. aureus, two colonies; fungal and AFB cx pending. BAL
   similar
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
   WBC
   26.3
   20.4
   17.7
   11.5
   Hct
   38.0
   32.5
   32.6
   29.7
   Plt
   [**Telephone/Fax (3) 946**]82
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   31
   30
   35
   35
   Glucose
   161
   152
   124
   137
   150
   152
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Note that last ABG obtained afternoon yesterday, has been hard to
   obtain repeat sample.
   Suspect patient
s low p/f secondary to persistent pulmonary edema. Will
   diurese today with lasix goal 2liters negative as BP tolerates. Will
   change back to AC ventilation given large tidal volumes. Can increase
   PEEP if needed to support oxygenation.
 POSSIBLE VAP
   Afebrile, WBC decreased. Sputum with only S. aureus on cultures, would
   narrow to vancomycin only today and complete 8 day course of therapy.
   If decompensates, would add back zosyn and cipro for gram negative
   coverage.
 CONCENTRIC SCLEROSIS
   Treatment per neurology, tx with cyclophosphamide with last dose
   planned 2/18 per Dr. [**Last Name (STitle) **]. Next pheresis [**1-18**]. Taping steroids per
   neurology recommendations.
 DELIRIUM / CONFUSION
   Patient with significant agitation on floor prior to ICU continue
   sedation to allow completion of treatment.
 Urinary tract infection
   On ampicillin for pan-sensitive E. coli UTI. Given catheter would
   complete 2 week course of treatment.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-17**] 04:14 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Arterial Line - [**2145-1-15**] 02:36 PM
 reattempt placement today,
   consider changing old line over wire
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  with family
   Code status: Full code
   Disposition:ICU

2145-01-17 09:36:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -UOP somewhat low yesterday, but 1750 UOP overnight (received 4L IVF
   due to cytoxan)
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-16**] 08:10 PM
   Ciprofloxacin - [**2145-1-16**] 08:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-17**] 02:00 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2145-1-16**] 11:06 PM
   Heparin Sodium - [**2145-1-17**] 06:11 AM
   Other medications:
   protonix, SQ heparin, chlorhexidine, solumedrol 250 mg IV daily (today
   [**1-3**])
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-17**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.2
   HR: 92 (79 - 148) bpm
   BP: 128/65(82){86/40(51) - 141/75(91)} mmHg
   RR: 13 (8 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  5,866 mL
                                                                  2,841 mL
   PO:
             TF:
                                                                  1,419 mL
                                                                    694 mL
   IVF:
                                                                  4,177 mL
                                                                  1,697 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  1,750 mL
   Urine:
                                                                    300 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,566 mL
                                                                  1,091 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 780 (320 - 902) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.45/49/60/34/8
   Ve: 10.6 L/min
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left base)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, decorticate posturing to noxious stimuli
   Labs / Radiology
   10.0 g/dL
   182 K/uL
   152 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   144 mEq/L
   29.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2145-1-14**]  04:44 AM
                             [**2145-1-14**]  01:58 PM
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
   WBC
   26.3
   20.4
   17.7
   11.5
   Hct
   38.0
   32.5
   32.6
   29.7
   Plt
   [**Telephone/Fax (3) 946**]82
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   31
   30
   35
   35
   Glucose
   161
   152
   124
   137
   150
   152
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.9 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR:  small bilateral pleural effusions.  Interstitial edema.
   Microbiology: BAL: 2 different morphologies of staph
   Urine: e.coli
   Assessment and Plan
   27 y/o F with concentric sclerosis and altered mental status, admitted
   to the [**Hospital Unit Name 44**] for line placement and subsequently developed ARDS and VAP.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP):  Continue vancomycin
   for staph, presumed MRSA.  D/c zosyn and cipro as she has not grown any
   gram negatives from her sputum or BAL.
 RESPIRATORY FAILURE, ACUTE (ARDS):  Now meets criteria for ARDS with
   P:F around 100, bilateral interstitial infiltrates.  Likely due to VAP
   (staph) and volume overload.  Respiratory system compliance is about 60
   ml/cm H20, which argues against ARDS picture. Would transduce central
   line to get a sense of her filling pressures.
   - trial of lasix for goal I/O negative around 1-2 liters (is
   significantly positive this admission)
   - recheck ABG
   - switch back to AC given her increased tidal volumes are suboptimal in
   the setting of ARDS
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis:  s/p cytoxan last night, pheresis tomorrow, and
   taper steroids per neuro
 DELIRIUM / CONFUSION: Will switch to versed and fentanyl as she is
   not likely to extubate soon
 HYPOTENSION (NOT SHOCK):  Resolved.
 LEUKOCYTOSIS:  Likely due to UTI and VAP, improving with treatment of
   these 2 infections.
 .H/O DEPRESSION
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-17**] 04:14 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Arterial Line - [**2145-1-15**] 02:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 mins.
   Patient is critically ill

2145-01-18 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-1-17**] 05:00 PM
   Switched over to A/C b/c of concern that she was drawing large volumes
   on PS
   Urine grew pan [**Last Name (un) 968**]-E. Coli, sputum grew [**Last Name (LF) 969**], [**First Name3 (LF) **] abx changed from
   vanc/zoysyn/cipro and to nafcillin/cipro
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-16**] 08:10 PM
   Ciprofloxacin - [**2145-1-16**] 08:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-17**] 02:00 AM
   Ampicillin - [**2145-1-17**] 05:49 PM
   Nafcillin - [**2145-1-18**] 06:59 AM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-17**] 10:00 PM
   Midazolam (Versed) - [**2145-1-17**] 11:00 PM
   Fentanyl - [**2145-1-17**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-18**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 94 (84 - 117) bpm
   BP: 102/34(49){96/34(49) - 146/81(95)} mmHg
   RR: 17 (9 - 19) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
    CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  5,195 mL
                                                                  1,268 mL
   PO:
   TF:
                                                                  1,806 mL
                                                                    560 mL
   IVF:
                                                                  2,939 mL
                                                                    638 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                    700 mL
   Urine:
                                                                  6,350 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,155 mL
                                                                    568 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 824 (746 - 824) mL
   RR (Set): 12
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.45/51/104/37/9
   Ve: 7.7 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Intubated, sedated.
   Midline in place
   S1, S2, RRR, no murmur
   Lungs with crackles R base, coarse BS throughout
   Abd soft, NT, ND.  +BS
   Ext warm with waffle boots in place; +1 LE edema
   Labs / Radiology  LABS FROM [**1-17**] IN EVENING; AM LABS PENDING
   182 K/uL
   10.0 g/dL
   177 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.8 mEq/L
   14 mg/dL
   103 mEq/L
   144 mEq/L
   29.7 %
   11.5 K/uL
        [image002.jpg]
                             [**2145-1-15**]  12:36 AM
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
   WBC
   20.4
   17.7
   11.5
   Hct
   32.5
   32.6
   29.7
   Plt
   185
   185
   182
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   TCO2
   31
   30
   35
   35
   37
   Glucose
   124
   137
   150
   152
   177
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   BAL [**1-14**]:  [**Month/Year (2) 969**]
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Immunoflourescent test for Pneumocystis jirovecii (carinii) (Final
      [**2145-1-14**]):    NEGATIVE for Pneumocystis jirvovecii (carinii).
   FUNGAL CULTURE (Pending):
   ACID FAST SMEAR (Final [**2145-1-15**]):
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
   ACID FAST CULTURE (Pending):
   Viral Cx negative, pending
   Sputum Cx [**1-14**]:  [**Month/Year (2) 969**]
   Ucx [**1-14**]: pan-sensitive E coli
   Sputum Cx [**1-17**]:  Gram stain with 4+ GPCs, Cx pending
   BCx NGTD
   CXR [**1-17**]:
   Cardiomediastinal contour with cardiomegaly is stable.  There are low l
   [**Doctor Last Name **]
   volumes.  ET tube tip is 4.5 cm above the carina.  Right IJ catheter ti
   p is in
   the SVC.  There is no pneumothorax.  There has been mild improvement in
    left
   lower lobe aeration.  On the other hand right upper lobe consolidation
   is
   stable and the right lower lobe ill-defined opacity is new; could be
   atelectasis or developing consolidation.
   Assessment and Plan
   27yo woman with concentric sclerosis admitted for chemotherapy and
   pheresis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Multifactorial in setting of obesity, pneumonia, and pulmonary edema.
   -          continue AC to prevent large tidal volumes
   -          diurese with lasix for goal of -2L
   -          follow frequent ABGs
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          growing [**Doctor Last Name 969**] from sputum and BAL
   -          given new fevers this AM after changing antibiotics, will
   switch back to vanc/zosyn/cipro
   -          if patient worsens, would consider adding gram negative
   coverage
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   -          appreciate neurology input
   -          plan for pheresis today
   -          last dose of cyclophosphamide planned for today as well
   -          continue steroid taper
 DELIRIUM / CONFUSION
   -          pt on mechanical ventilation to facilitate treatment given
   significant agitation/delirium while receiving steroids on the floor
 Urinary tract infection:
   -          urine growing pan-sensitive E coli
   -          continue cipro for total of two week course of treatment
   -          resend urine Cx
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2145-1-17**] 11:40 PM 75 mL/hour
   Glycemic Control:  SSI
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: heparin subQ
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2145-01-18 11:19:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2145-1-17**] 05:00 PM
   Antibiotic coverage narrowed.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-16**] 08:10 PM
   Ciprofloxacin - [**2145-1-16**] 08:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-17**] 02:00 AM
   Ampicillin - [**2145-1-17**] 05:49 PM
   Nafcillin - [**2145-1-18**] 06:59 AM
   Infusions:
   Fentanyl - 225 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-17**] 10:00 PM
   Midazolam (Versed) - [**2145-1-17**] 11:00 PM
   Fentanyl - [**2145-1-17**] 11:00 PM
   Other medications:
   ppi, insulin sliding scale, methylpred, mouth care
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-18**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 109 (84 - 117) bpm
   BP: 111/44(58){96/34(49) - 146/81(95)} mmHg
   RR: 15 (9 - 19) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
   CVP: 14 (4 - 14)mmHg
   Total In:
                                                                  5,195 mL
                                                                  1,625 mL
   PO:
   TF:
                                                                  1,806 mL
                                                                    725 mL
   IVF:
                                                                  2,939 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                  6,350 mL
                                                                  1,500 mL
   Urine:
                                                                  6,350 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,155 mL
                                                                    125 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 824 (746 - 824) mL
   RR (Set): 12
   PEEP: 12 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.45/51/104/33/9
   Ve: 8.8 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, Diaphoretic
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   )
Patient with thick tan secretions with limited clearance with suction
   catheter alone.  Bilateral breath sounds appreciated.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   218 K/uL
   97 mg/dL
   0.5 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   103 mEq/L
   143 mEq/L
   28.8 %
   5.2 K/uL
        [image002.jpg]
                             [**2145-1-15**]  05:01 AM
                             [**2145-1-15**]  02:42 PM
                             [**2145-1-15**]  11:30 PM
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
   WBC
   20.4
   17.7
   11.5
   5.2
   Hct
   32.5
   32.6
   29.7
   28.8
   Plt
   185
   185
   182
   218
   Cr
   0.6
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   30
   35
   35
   37
   Glucose
   124
   137
   150
   152
   177
   97
   Other labs: PT / PTT / INR:13.0/24.8/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR: RLL opacity improved, continues with RUL infiltrate.  L
   base more opacified today.  Interstitial edema.
   Microbiology: BAL and sputum growing MSSA
   Repeat sputum with 4+ GPCs
   Urine pan [**Last Name (un) **] e.coli
   Assessment and Plan
   27  y/o F with concentric sclerosis adm for pheresis and cytoxan, c/b
   development of VAP.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP):  Change abx regimen
   back to vanc/zosyn/cipro (see below)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Likely due to combination
   of VAP and volume overload.
   - aggressive diuresis today, goal 2 liters negative
   - Given new fever after narrowing antibiotics yesterday, will change
   her back to previous regimen and pan-culture (vanc/zosyn/cipro)
   - wean FiO2 as tolerated
   -Patient with progressive hypoxemia noted across the day
she has thick
   secretions, very decreased breath sounds and quite likely continued
   thick secretions causing recurrent collapse at segmental or lobal
   level
bronchoscopy for aspiration for Rx
 FEVER: No obvious source.  Lines appear clean.  Re-culture.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis:  cytoxan, pheresis, steroids per neuro.
 DELIRIUM / CONFUSION
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2145-01-19 07:39:00 Physician Resident Progress Note
Chief Complaint: 27F with concentric sclerosis here for tx
   24 Hour Events:
   Pheresis done in AM
   Oxygenation steadily worsened over course of morning
   Bronch'd--no significant findings
   CTA done--no PE, but +R>L infiltrate concerning for aspiration
   pneumonia
   Good urine output to lasix 40
   Received cyclophosphamide
   O2 sat's improving, weaning O2
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone psychosis;
   Sulfa (Sulfonamides) Rash;
   Phenytoin Sodium psychosis;
   Last dose of Antibiotics:
   Cipro
   Vancomycin
   Zosyn
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2145-1-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 76 (61 - 124) bpm
   BP: 102/52(64){99/16(46) - 144/64(80)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
    CVP: 309 (11 - 309)mmHg
   Total In:
                                                                  4,808 mL
                                                                  2,065 mL
   PO:
   TF:
                                                                  1,154 mL
   IVF:
                                                                  3,514 mL
                                                                  1,945 mL
   Blood products:
   Total out:
                                                                  5,850 mL
                                                                  3,800 mL
   Urine:
                                                                  5,850 mL
                                                                  3,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,042 mL
                                                                 -1,735 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.50/46/157/34/11
   Ve: 9.1 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   224 K/uL
   8.8 g/dL
   134 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.3 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   25.9 %
   2.8 K/uL
        [image002.jpg]
   CXR official read pending decreased L sided infiltrate but RUL
   infiltrate more dense today
   Micro
   [**1-18**] urine cx NGTD
   [**1-18**] blood cx NGTD
   [**1-17**] sputum >25 polys 4+ GPCs in clusters, cx with S. aureus
   [**1-14**] blood NGTD
   [**1-14**] urine cx E coli pan sensitive
   [**1-14**] sputum gram [**9-25**] polys 3+ organisms c/w oral flora; cx with
   moderate growth MSSA, two colonies; fungal and AFB cx pending. BAL
   similar
   [**1-14**] resp viral screen neg
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
   WBC
   17.7
   11.5
   5.2
   2.8
   Hct
   32.6
   29.7
   28.8
   25.9
   Plt
   185
   182
   218
   224
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   35
   37
   35
   37
   Glucose
   137
   150
   152
   177
   97
   134
   Other labs: PT / PTT / INR:13.5/28.9/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Multifactorial in setting of obesity, pneumonia, and pulmonary edema.
   -          continue AC to prevent large tidal volumes
   -          diurese with lasix for goal of -2L
   -          follow frequent ABGs
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          growing MSSA from sputum and BAL
   -          given new fevers this AM after changing antibiotics, will
   switch back to vanc/zosyn/cipro
   -          if patient worsens, would consider adding gram negative
   coverage
 Anemia
   Hct  decreased. In setting of cyclophosphamide concern for hemorrhagic
   cystitis but UA yesterday with only few RBCS
 Constipation
   Bowel regimen
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   -          appreciate neurology input
   -          plan for pheresis today
   -          last dose of cyclophosphamide planned for today as well
   -          continue steroid taper
 DELIRIUM / CONFUSION
   -          pt on mechanical ventilation to facilitate treatment given
   significant agitation/delirium while receiving steroids on the floor
 Urinary tract infection:
   -          urine growing pan-sensitive E coli
   -          continue cipro for total of two week course of treatment
   -          resend urine Cx
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-19 11:20:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-1-18**] 09:26 AM
 BRONCHOSCOPY - At [**2145-1-18**] 06:08 PM
   Developed worsening hypoxemia yesterday.  CXR relatively unchanged.
   Underwent bronchoscopy which showed minimal secretions.  CTA showed
   possible aspiration pneumonia but no PE.
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ampicillin - [**2145-1-17**] 05:49 PM
   Nafcillin - [**2145-1-18**] 06:59 AM
   Ciprofloxacin - [**2145-1-18**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-19**] 03:48 AM
   Vancomycin - [**2145-1-19**] 07:57 AM
   Infusions:
   Fentanyl - 250 mcg/hour
   Midazolam (Versed) - 14 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2145-1-19**] 03:30 AM
   Fentanyl - [**2145-1-19**] 03:30 AM
   Furosemide (Lasix) - [**2145-1-19**] 03:30 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-19**] 06:00 AM
   Lansoprazole (Prevacid) - [**2145-1-19**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-19**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.4
C (99.4
   HR: 98 (61 - 124) bpm
   BP: 113/53(66){94/16(46) - 144/64(80)} mmHg
   RR: 15 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
   CVP:
   Total In:
                                                                  4,808 mL
                                                                  2,542 mL
   PO:
   TF:
                                                                  1,154 mL
   IVF:
                                                                  3,514 mL
                                                                  2,392 mL
   Blood products:
   Total out:
                                                                  5,850 mL
                                                                  2,575 mL
   Urine:
                                                                  5,850 mL
                                                                  2,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,042 mL
                                                                    -33 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.50/46/157/34/11
   Ve: 8.6 L/min
   PaO2 / FiO2: 314
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Some response to verbal stimuli today; some decorticate
   posturing with noxious stimuli.  Midline pupils.
   Labs / Radiology
   8.8 g/dL
   224 K/uL
   134 mg/dL
   0.5 mg/dL
   34 mEq/L
   3.3 mEq/L
   14 mg/dL
   101 mEq/L
   140 mEq/L
   25.9 %
   2.8 K/uL
        [image002.jpg]
                             [**2145-1-16**]  05:20 AM
                             [**2145-1-16**]  02:23 PM
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
   WBC
   17.7
   11.5
   5.2
   2.8
   Hct
   32.6
   29.7
   28.8
   25.9
   Plt
   185
   182
   218
   224
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   TCO2
   35
   37
   35
   37
   Glucose
   137
   150
   152
   177
   97
   134
   Other labs: PT / PTT / INR:13.5/28.9/1.2, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.4, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:236 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: slightly worsened infiltrate at left base, mild
   interstitial edema, RUL infiltrate
   CTA: atelectasis vs consolidation in dependent areas of the lung
   bilaterally, as well as consolidation with air bronchograms and GGO in
   sup seg of RLL
   Microbiology: No new cx data
   Assessment and Plan
   27 year old woman with concentric sclerosis s/p cytoxan and
   plasmapheresis, with respiratory failure and VAP.  Her increased
   hypoxemia was evaluated with bronchosocpy and CTA yesterday and appears
   consistent with basilar atelectasis and pneumonia, rather than
   pulmonary embolism.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -- sensitivities pending.
   -- will follow cultures for another day and then tailor antibiotics
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- recheck ABG
   -- wean PEEP
   --continue diuresis
 PANCYTOPENIA:  WBC count has been decreasing over past few days.
   Timing seems c/w cytoxan effect.
   - add on differential
   - will monitor for evolving sepsis
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis:  has now completed course of cytoxan and
   plasmapheresis.  Cont to wean steroids.
 DELIRIUM / CONFUSION:  Related to concentric sclerosis.
   .
   ICU Care
   Nutrition:
   Comments: hold TF given no BM x several days and concern for aspiration
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2145-01-20 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Diuresed
   Neuro plans one additional session of plasmapheresis for [**1-20**], steroid
   taper
   Weaned down on PEEP
   Had one episode of very small "coffee ground" NGT output [**Name8 (MD) **] RN
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ampicillin - [**2145-1-17**] 05:49 PM
   Nafcillin - [**2145-1-18**] 06:59 AM
   Vancomycin - [**2145-1-19**] 08:00 PM
   Ciprofloxacin - [**2145-1-19**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 18 mg/hour
   Fentanyl - 300 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2145-1-19**] 08:00 AM
   Furosemide (Lasix) - [**2145-1-20**] 01:21 AM
   Heparin Sodium - [**2145-1-20**] 06:00 AM
   Fentanyl - [**2145-1-20**] 06:26 AM
   Midazolam (Versed) - [**2145-1-20**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-20**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 104 (67 - 104) bpm
   BP: 133/65(81) {94/45(55) - 133/71(83)} mmHg
   RR: 19 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,048 mL
                                                                    625 mL
   PO:
             TF:
   IVF:
                                                                  3,588 mL
                                                                    555 mL
   Blood products:
   Total out:
                                                                  5,545 mL
                                                                  3,170 mL
   Urine:
                                                                  5,545 mL
                                                                  3,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,497 mL
                                                                 -2,545 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 800 (800 - 860) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, pheresis
   line ok
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds b/l
   anteriorly and at bases
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, scattered
   abdominal ecchymoses unchanged
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, does not withdraw to finger squeeze but occasional
   paroxysms of motion
   Labs / Radiology
   297 K/uL
   9.1 g/dL
   97 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   142 mEq/L
   26.6 %
   1.7 K/uL
        [image002.jpg]
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
   WBC
   11.5
   5.2
   2.8
   1.7
   Hct
   29.7
   28.8
   25.9
   25.1
   26.6
   Plt
   182
   218
   224
   297
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   35
   37
   35
   37
   Glucose
   152
   177
   97
   134
   97
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, LympFibrinogen:332 mg/dL,
   Lactic Acid:0.7 mmol/L, Albumin:3.4 g/dL, LDH:119 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: [**1-20**] CXr PND
   [**1-19**] KUB
   IMPRESSION:  No evidence of obstruction.  High-density stool seen
   throughout
   the colon.
   [**1-19**] CXR
   IMPRESSION:  Stable mild pulmonary edema with interval improvement in
   right upper lobe pneumonia vs. aspiration.
   Microbiology: [**1-18**] UCx:
   URINE CULTURE (Final [**2145-1-19**]):
   YEAST. 10,000-100,000 ORGANISMS/ML
   [**1-18**] BCx: PND
   [**1-17**] SPUTUM
   MSSA (no change from [**1-14**]
   [**1-14**] BCx PND
   [**1-14**] Pan- Sensitive E. Coli
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])- Likely multifactorial in
   setting of obesity, pneumonia, and pulmonary edema.
   -- CTA confirmed a possible aspiration pneumonia and ruled out PE
   -- if today
s pheresis is last session, switch over to PSV today,
   repeat SBT, repeat ABG.
   -- If accetable and well tolerated, would extubate
   -- would continue to diurese goal -1
 2 liters (continues to
   autodiurese very well this AM)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Only MSSA isolated from sputum to date, but now on expanded coverage
   after fever and hypoxia with naficillin/cipro. Consider aspiration
   given question of feeds being suctioned.
   --Continue zosyn/cipro/vancomycin for now (8 day course), follow up
   cultures and reculture if febrile
 Leukopenia
   -         likely chemotherapy related (cyclophosphamide)
   -         check ANC, trend daily
   -         may need to consider neupogen
 Anemia
   -          stable, may be [**1-2**] chemo. Would only transfuse Hb>7.
   -          DIC and hemolysis ruled out
 Constipation
   -          Patient without recent bowel movement, is on fentanyl
   -          KUB without evidence of bowel obstruction but ++ stool
   -          Uptitrate bowel regimen prn today
 Concentric Sclerosis
   -          One more session of pheresis today
   -          s/p cyclophosphamide treatments and CBI
   -          Tapering steroids per neurology
   -          Follow up Dr. [**Last Name (STitle) **] recommendations.
 Urinary tract infection
   -          Urine culture with pan-sensitive E. coli, will be covered on
   current VAP regimen. Complete 14d course of treatment as patient has
   foley.
   ICU Care
   Nutrition:
   Comments: TF's on hold this AM pending possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-20 12:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, concentric sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed
   PEEP decreased
   Plasmapheresis session started this morning
   Patient unable to provide history: Sedated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Ampicillin - [**2145-1-17**] 05:49 PM
   Nafcillin - [**2145-1-18**] 06:59 AM
   Ciprofloxacin - [**2145-1-19**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Vancomycin - [**2145-1-20**] 08:35 AM
   Infusions:
   Fentanyl - 300 mcg/hour
   Midazolam (Versed) - 18 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-20**] 01:21 AM
   Heparin Sodium - [**2145-1-20**] 06:00 AM
   Fentanyl - [**2145-1-20**] 07:34 AM
   Midazolam (Versed) - [**2145-1-20**] 07:50 AM
   Other medications:
   SQI, SQH, CHG, PPI, pred 60
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-20**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 107 (67 - 107) bpm
   BP: 121/81(89) {98/43(56) - 133/81(89)} mmHg
   RR: 12 (8 - 20) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  4,224 mL
                                                                  1,257 mL
   PO:
             TF:
   IVF:
                                                                  3,764 mL
                                                                  1,187 mL
   Blood products:
   Total out:
                                                                  5,545 mL
                                                                  3,395 mL
   Urine:
                                                                  5,545 mL
                                                                  3,395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,321 mL
                                                                 -2,138 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 800 (800 - 860) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 91%
   ABG: ///33/
   Ve: 7.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Increased, pupils midline. Movmements coordinated.
   Labs / Radiology
   9.1 g/dL
   297 K/uL
   97 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   142 mEq/L
   26.6 %
   1.7 K/uL
        [image002.jpg]
                             [**2145-1-16**]  03:20 PM
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
   WBC
   11.5
   5.2
   2.8
   1.7
   Hct
   29.7
   28.8
   25.9
   25.1
   26.6
   Plt
   182
   218
   224
   297
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   TCO2
   35
   37
   35
   37
   Glucose
   152
   177
   97
   134
   97
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: ETT ~ 2cm above carina. Probably better aeration overall,
   particularly RUL when compared over days
   Assessment and Plan
   27 year-old woman with respiratory failure, VAP, and concentric
   sclerosis.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -- seems to be improving
   -- diurese 2 - 3L net negative today (on track)
   -- SBT once plasmapheresis done; will need to hold sedation
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -- vanc / zosyn / cipro x 8 day course
   -- spiked through just nafcillin, hence the broad coverage
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   -- complete plasmapharesis course today
   -- s/p cytoxan course
 DELIRIUM / CONFUSION
   -- related to concentric sclerosis
 LEUKOPENIA / ANEMIA
   - likely secondary to cytoxan
 CONSTIPATION
   - bowel regimen
   ICU Care
   Nutrition:
   NPO for SBT
   Glycemic Control:  tighten slightly
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQH
   Stress ulcer: PPI
   VAP: usual care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:  45 min
   5pm Addendum
   Tolerated plasmapheresis.
   Too sedated after this for extubation, although doing well on PSV 5 /
   PEEP 8.
   Discussed with nursing, respiratory, housestaff, and mother
 tonight
   major plan is to hold sedation and use propofol if needed.  We will
   then aim for RSBI
 SBT early tomorrow.  I would not favor extubation
   tonight given body habitus and relatively marginal pulmonary status.
   25 min

2145-01-21 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Continues to diurese well
   Finished plasmapheresis, plan to pull catheter today
   Weaned down on PEEP, stayed on PSV and propofol in anticipation of RSBI
   and extubation this AM
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Nafcillin - [**2145-1-18**] 06:59 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Vancomycin - [**2145-1-20**] 08:00 PM
   Ciprofloxacin - [**2145-1-20**] 10:00 PM
   Piperacillin - [**2145-1-21**] 04:21 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2145-1-20**] 07:34 AM
   Midazolam (Versed) - [**2145-1-20**] 07:50 AM
   Heparin Sodium - [**2145-1-20**] 02:00 PM
   Pantoprazole (Protonix) - [**2145-1-20**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-20**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-21**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 113 (85 - 153) bpm
   BP: 124/67(81) {83/37(48) - 140/81(89)} mmHg
   RR: 17 (8 - 25) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,307 mL
                                                                    438 mL
   PO:
             TF:
   IVF:
                                                                  2,237 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                    330 mL
   Urine:
                                                                  5,160 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,853 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (110 - 1,060) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: ///29/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese, worsening acne
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   356 K/uL
   10.2 g/dL
   98 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   12 mg/dL
   107 mEq/L
   145 mEq/L
   29.9 %
   0.8 K/uL
        [image002.jpg]
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
   WBC
   11.5
   5.2
   2.8
   1.7
   0.8
   Hct
   29.7
   28.8
   25.9
   25.1
   26.6
   29.9
   Plt
   182
   218
   224
   297
   356
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   37
   35
   37
   Glucose
   152
   177
   97
   134
   97
   98
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: [**1-21**] CXR PND
   [**1-20**] CXR
   1.  Persistent mild bilateral pulmonary edema along with low lung
   volume.
   2.  Endotracheal tube needs to be adjusted by pulling it backward by at
   least
   2 cm
   Microbiology: [**1-21**] BCx PND
   [**1-18**] UCx 10-100K yeast
   [**1-18**] BCx PND
   [**1-17**] Sputum MSSA unchanged form [**1-14**]
   [**1-14**] Urine E Coli UTI
   Assessment and Plan
   27F with concentric sclerosis, [**Hospital 1064**] hospital course c/b VAP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - Likely multifactorial in
   setting of obesity, VAP, and pulmonary edema.
   -- RSBI this AM 35; wean off propofol, switch to SBT and if well
   tolerated would extubate
   -- prior to extubation would check a venous blood gas as difficult to
   assess underlying mental status
   -- would also continue to diurese goal -1
 2 liters (continues to
   autodiurese very well)
   -- treat pulmonary infection as below
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -- MSSA isolated from sputum, but now on expanded coverage after fever
   and hypoxia with just naficillin/cipro.
   -- Continue zosyn/cipro/vancomycin for 8 day course,  today is day #4,
   can maintain cipro for UTI as below
   -- follow up cultures and reculture if febrile
 Neutropenia
   -         chemotherapy related (cyclophosphamide)
   -         check ANC, trend daily
   -         maintain precautions
   -         f/u Dr. [**Last Name (STitle) **]
s recs re: neupogen
 Anemia
   -          stable, may be [**1-2**] chemo. Would only transfuse Hb>7.
   -          DIC and hemolysis ruled out
 Constipation
   -          Patient without recent bowel movement, is on fentanyl
   -          KUB without evidence of bowel obstruction but ++ stool
   -          Uptitrate bowel regimen prn today
 Concentric Sclerosis
   -          s/p all pheresis and cyclophosphamide sesisons
   -          Tapering steroids per neurology
   -          Follow up Dr. [**Last Name (STitle) **] recommendations
   -          If continues to be persistantly altered or agitated after
   extubation, would use haldol prn
   -          Check daily EKGs to monitor QTc on haldol
   -          Consider precedex as alternative for sedation
 Urinary tract infection
   -          Urine culture with pan-sensitive E. coli, will be covered on
   current VAP regimen. Complete 14d course of treatment as patient has
   foley (day 1 of cipro = [**1-14**], continue until [**1-28**])
   ICU Care
   Nutrition:
   Comments: hold TFs this AM in anticipation of extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
 would d/c today if stable
   after extubation
   Comments:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2145-01-21 10:33:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, concentric sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEEP weaned.  Tolerated plasmapheresis.
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Ciprofloxacin - [**2145-1-20**] 10:00 PM
   Piperacillin - [**2145-1-21**] 04:21 AM
   Vancomycin - [**2145-1-21**] 08:00 AM
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2145-1-20**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-21**] 06:00 AM
   Pantoprazole (Protonix) - [**2145-1-21**] 08:00 AM
   Other medications:
   PPI, SQH, methylpred 125mg IV  q24 hours
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-21**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 123 (86 - 153) bpm
   BP: 119/51(69) {83/37(48) - 140/81(89)} mmHg
   RR: 21 (10 - 25) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  2,307 mL
                                                                  1,013 mL
   PO:
             TF:
   IVF:
                                                                  2,237 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                  5,160 mL
                                                                    700 mL
   Urine:
                                                                  5,160 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,853 mL
                                                                    313 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 707 (110 - 1,060) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 30
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 10.2 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: breath sounds are distant
   Abdominal: Soft, Obese
   Skin:  Warm, increased acne
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   356 K/uL
   98 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.8 mEq/L
   12 mg/dL
   107 mEq/L
   145 mEq/L
   29.9 %
   0.8 K/uL
        [image002.jpg]
                             [**2145-1-17**]  03:51 AM
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
   WBC
   11.5
   5.2
   2.8
   1.7
   0.8
   Hct
   29.7
   28.8
   25.9
   25.1
   26.6
   29.9
   Plt
   182
   218
   224
   297
   356
   Cr
   0.5
   0.5
   0.5
   0.5
   0.4
   0.5
   TCO2
   37
   35
   37
   Glucose
   152
   177
   97
   134
   97
   98
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: ANC ~ 500
   Imaging: CXR essentially stable, with ETT 4 - 5 cm above carina
   Assessment and Plan
   27-year-old woman with concentric sclerosis, respiratory failure, and
   VAP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - improved and seems to be tolerating SBT
   - check VBG, since we cannot assess her mental status well given
   underlying disease.  If OK --> trial of extubation (she was previously
   a Grade I view direct laryngoscopy)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   - complete course of ABX (d/c after eight-day course)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   - no further rx at present
 DELIRIUM / CONFUSION
   - secondary to concentric sclerosis
   - treat with Haldol peri-extubation if needed.  Could consider
   Precedex.
 NEUTROPENIA
   - secondary to cytoxan
   - discuss the role of GCSF with Dr. [**Last Name (STitle) **] and oncology
   ICU Care
   Nutrition:
   Glycemic Control:  Comments: Glucose control has improved
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  35 min
   Patient is critically ill
   ------ Protected Section ------
   Critical Care Attending Addendum
   Following extubation, Ms. [**Known lastname 913**] [**Last Name (Titles) 1079**] to the mid 80s, was very
   agitated, and had respiratory distress.  She nearly required
   reintubation.  We diuresed, placed a nasal trumpet, and moved her to a
   more-upright sitting position.  She was not responsive to Haldol and
   BZD, so we began Precedex, which has worked quite well.  VBG shows that
   she is maintaining pCO2 appropriately.  She may require reintubation
   tonight; we have discussed this with her mother in detail.  We will
   continue to follow VBGs overnight.
   She has a fever as well.  If she decompensates, would change to
   meropenem since this might cover ESBL-producing organisms. For now, we
   will continue current antibiotics.
   70 minutes at bedside
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2145-1-21**] 18:25 ------

2145-01-22 07:13:00 Physician Resident Progress Note
Chief Complaint: 27F with concentric sclerosis s/p cytoxan and
   plasmapheresis
   24 Hour Events:
   Extubated
   Put on Precedex, weaned down during night, but back up in AM
   Started on G-CSF
   Diuresed
   Febrile--cultured, antibiotics not changed
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Ciprofloxacin - [**2145-1-20**] 10:00 PM
   Vancomycin - [**2145-1-21**] 08:36 PM
   Piperacillin - [**2145-1-22**] 04:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-21**] 02:00 PM
   Pantoprazole (Protonix) - [**2145-1-21**] 08:36 PM
   Lorazepam (Ativan) - [**2145-1-22**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2145-1-22**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 127 (65 - 155) bpm
   BP: 137/75(89) {91/40(31) - 152/105(117)} mmHg
   RR: 25 (13 - 25) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
    CO/CI (Fick): (7.4 L/min) / (3.2 L/min/m2)
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,943 mL
                                                                    346 mL
   PO:
   TF:
   IVF:
                                                                  1,943 mL
                                                                    346 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    380 mL
   Urine:
                                                                  2,910 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -967 mL
                                                                    -34 mL
   Respiratory support
   Ventilator mode: Standby
   PS : 5 cmH2O
   FiO2: 50%
   SpO2: 91%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese, lying at end of bed with feet
   on railing
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, withdraws to noxious stimuli
   Labs / Radiology
   327 K/uL
   9.6 g/dL
   107 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   27.5 %
   0.5 K/uL
        [image002.jpg]
   ANC 160
   CXR
   R CP angle not well seen, L sided effusion and patchy B infiltrates
   Micro
   [**1-21**] urine cx NGTD
   [**1-21**] blood cx [**1-2**] NGTD
   [**1-18**] urine cx yeast
   [**1-17**] sputum cx Staph aureus 2 colony morphologies
   [**1-14**] blood cx NGTD
   [**1-14**] urine E. coli (pan sensitive)
   [**1-14**] sputum MSSA
   [**1-14**] resp virus negative
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
   WBC
   5.2
   2.8
   1.7
   0.8
   0.5
   Hct
   28.8
   25.9
   25.1
   26.6
   29.9
   27.5
   Plt
   [**Telephone/Fax (3) 1084**]56
   327
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.6
   TCO2
   37
   35
   37
   Glucose
   177
   97
   134
   97
   98
   107
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - Likely multifactorial in
   setting of obesity, VAP, and pulmonary edema.
   -- RSBI this AM 35; wean off propofol, switch to SBT and if well
   tolerated would extubate
   -- prior to extubation would check a venous blood gas as difficult to
   assess underlying mental status
   -- would also continue to diurese goal -1
 2 liters (continues to
   autodiurese very well)
   -- treat pulmonary infection as below
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -- MSSA isolated from sputum, but now on expanded coverage after fever
   and hypoxia with just naficillin/cipro.
   -- Continue zosyn/cipro/vancomycin for 8 day course,  today is day #4,
   can maintain cipro for UTI as below
   -- follow up cultures and reculture if febrile
 Neutropenia
   -          chemotherapy related (cyclophosphamide)
   -          check ANC, trend daily
   -          maintain precautions
   -          f/u Dr. [**Last Name (STitle) **]
s recs re: neupogen
 Anemia
   -          stable, may be [**1-2**] chemo. Would only transfuse Hb>7.
   -          DIC and hemolysis ruled out
 Constipation
   -          Patient without recent bowel movement, is on fentanyl
   -          KUB without evidence of bowel obstruction but ++ stool
   -          Uptitrate bowel regimen prn today
 Concentric Sclerosis
   -          s/p all pheresis and cyclophosphamide sesisons
   -          Tapering steroids per neurology
   -          Follow up Dr. [**Last Name (STitle) **] recommendations
   -          If continues to be persistantly altered or agitated after
   extubation, would use haldol prn
   -          Check daily EKGs to monitor QTc on haldol
   -          Consider precedex as alternative for sedation
 Urinary tract infection
   -          Urine culture with pan-sensitive E. coli, will be covered on
   current VAP regimen. Complete 14d course of treatment as patient has
   foley (day 1 of cipro = [**1-14**], continue until [**1-28**])
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2145-1-12**] 02:58 PM
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-22 12:00:00 Physician Attending Progress Note
Chief Complaint: concentric sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2145-1-21**] 10:56 AM
 BLOOD CULTURED - At [**2145-1-21**] 06:43 PM
 URINE CULTURE - At [**2145-1-21**] 06:43 PM
   Extubated.  Very agitated and hypoxemic afterward.  Responded to
   diuresis and Precedex.
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-20**] 04:00 AM
   Ciprofloxacin - [**2145-1-20**] 10:00 PM
   Piperacillin - [**2145-1-22**] 04:02 AM
   Vancomycin - [**2145-1-22**] 08:34 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.5 mcg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-1-21**] 02:00 PM
   Pantoprazole (Protonix) - [**2145-1-21**] 08:36 PM
   Lorazepam (Ativan) - [**2145-1-22**] 10:00 AM
   Other medications:
   SQH, SQ insulin, cipro, PPI, methylprednisolone, colace, GCSF
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-22**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.5
   HR: 74 (65 - 135) bpm
   BP: 92/36(49) {91/36(31) - 152/105(117)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,943 mL
                                                                    693 mL
   PO:
             TF:
   IVF:
                                                                  1,943 mL
                                                                    693 mL
   Blood products:
   Total out:
                                                                  2,910 mL
                                                                    500 mL
   Urine:
                                                                  2,910 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -967 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), very distant
   Abdominal: Soft, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   withdraws to noxious stimuli (not posturing), Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   327 K/uL
   107 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   15 mg/dL
   105 mEq/L
   142 mEq/L
   27.5 %
   0.5 K/uL
        [image002.jpg]
                             [**2145-1-17**]  05:30 PM
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
   WBC
   5.2
   2.8
   1.7
   0.8
   0.5
   Hct
   28.8
   25.9
   25.1
   26.6
   29.9
   27.5
   Plt
   [**Telephone/Fax (3) 1084**]56
   327
   Cr
   0.5
   0.5
   0.5
   0.4
   0.5
   0.6
   TCO2
   37
   35
   37
   Glucose
   177
   97
   134
   97
   98
   107
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Microbiology: NGSF on new cultures
   Assessment and Plan
   27-year-old woman with concentric sclerosis s/p plasmapheresis and
   cytoxan, now one day s/p extubation, with ongoing marked hypoxemia
   related to atelectasis, resolving VAP, and volume overload.  Behavioral
   management is an extremely challenging issue at present.
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          continue present ABX for eight day course and until
   non-neutropenic
 PULMONARY EDEMA
   -          diuresis
 Concentric Sclerosis
   -          s/p cytoxan and plasmapheresis
   -          on steroids: change to IV
 IMMUNOSUPPRESSION
   -          PCP prophylaxis
   [**Name Initial (PRE) **]          Neutropenic precautions
 DELIRIUM / CONFUSION
   -          related to underlying neurologic process.  Per Dr. [**Last Name (STitle) **],
   may persist for months
   -          We will try to add in benzodiazepines and Haldol today, then
   d/c Precedex.
   -          Venous and enteral access is a [**Last Name 551**] problem.  We will try
   to get PICC today, place Dobhoff today, and remove pheresis catheter.
   She may well need trach and PEG.
   -          - will discuss further with Dr. [**Last Name (STitle) **], and consider talking
   with psychiatry for pharmacologic assistance
   ICU Care
   Nutrition: NPO for now until we have enteral access.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   20 Gauge - [**2145-1-22**] 08:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min

2145-01-23 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2145-1-22**] 08:00 AM
   Rt upper arm, pt self d/c'ed
   Remained agitated during the day, started on standing lorazepam and
   zyprexa
   Dubhoff tube placed, nitroglycerin given as tip appeared at GE junction
   SUBJ:
   does not respond to verbal stimulation but remains mildly agitated in
   bed
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin - [**2145-1-22**] 04:02 AM
   Vancomycin - [**2145-1-22**] 11:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-23**] 04:00 AM
   Ciprofloxacin - [**2145-1-23**] 05:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2145-1-22**] 02:26 PM
   Pantoprazole (Protonix) - [**2145-1-22**] 09:00 PM
   Furosemide (Lasix) - [**2145-1-22**] 09:00 PM
   Lorazepam (Ativan) - [**2145-1-23**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-23**] 05:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-23**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 72 (70 - 155) bpm
   BP: 101/55(65) {88/36(49) - 120/68(80)} mmHg
   RR: 16 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,471 mL
                                                                    481 mL
   PO:
             TF:
   IVF:
                                                                  1,471 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    425 mL
   Urine:
                                                                  2,240 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -769 mL
                                                                     56 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube, R pheresis cath in
   place
   Cardiovascular: (S1: Normal), (S2: Normal), mild tachycardia, no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed,
   inattentive and does not follow commands
   Labs / Radiology
   343 K/uL
   10.1 g/dL
   120 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.0 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   0.6 K/uL
        [image002.jpg]
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
   WBC
   5.2
   2.8
   1.7
   0.8
   0.5
   0.6
   Hct
   28.8
   25.9
   25.1
   26.6
   29.9
   27.5
   28.2
   Plt
   [**Telephone/Fax (3) 1084**]56
   327
   343
   Cr
   0.5
   0.5
   0.4
   0.5
   0.6
   0.6
   TCO2
   37
   35
   37
   Glucose
   97
   134
   97
   98
   107
   120
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: [**1-23**] CXR PND
   [**1-22**] CXRs (multiple)
   Dobbhoff tube is seen at the GE junction.  Small focal opacity in the
   anterior segment of the right upper lobe is noted slightly more
   pronounced on the current radiograph and might represent developing
   infection
   Microbiology: [**1-21**] UCx: PND
   [**1-21**] BCx: PND
   [**1-18**] UCx: yeast 10-100K
   [**1-17**] sputum MSSA
   [**1-14**] UCX: pan -S E. Coli
   Assessment and Plan
   27F with concentric sclerosis and resultant AMS, intubated for sedation
   and venous access for chemo, now s/p all chemo treatments and
   plasmapheresis, hospital course c/b VAP.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])  - Pt continues to be
   mildly hypoxic s/p extubation. Multifactorial contributions from
   obesity, VAP, pulmonary edema, and probable RUL mucus plugging as seen
   on previous bronchoscopy
   -          Hypoxia seems worsened by positioning, try to transition to
   chair today, will mobilize pulmonary edema and improve any atelectasis
   -          continue diuresis with goal 1-2 liters negative today, would
   continue to diurese until creatinine bumps
   -          Supplemental O2 as needed
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          Only MSSA isolated from sputum, though decompensated with
   fevers when coverage narrowed to nafcillin
   -          completing 8 day course of zosyn/cipro/vancomycin, currently
   day [**5-9**], for presumed VAP, in absence of further data for nonfermenting
   GNRs. Reculture if febrile.
   -          Vanco uptitrated to TID given subtherapeutic trough, would
   recheck in AM
 Agitation
   -          Recovery may be prolonged per neurology
   -          Continue standing ativan and zyprexa.
   -          d/c Precedex
 Neutropenia
   -          secondary to chemotherapy
   -          follow ANC, maintain neuropenic precautions
   -          continue neupogen per neurology recommendations.
   -          After NGT placement confirmed, start atovaquone for PCP
   [**Name9 (PRE) 1091**]
 Anemia
   -          [**Month (only) 60**] also be chemotherapy related, no evidence of DIC or
   hemolysis on recent labs. Transfuse Hb<7.
 Concentric Sclerosis
   -          S/p pheresis and cyclophosphamide, on steroid taper
   -          f/u neuro recs re: steroid dosing
 Urinary tract infection
   -          Recent E. coli UTI in setting of foley cath, would treat for
   14 day course of cipro ending [**1-28**].
   ICU Care
   Nutrition:
   Comments: should begin TFs when definitive NGT placement established
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
 will d/c after pt receives
   new PICC line
   20 Gauge - [**2145-1-22**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI [**Hospital1 **]
   VAP:  n/a
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-23 11:18:00 Physician Attending Progress Note
Chief Complaint: 27 yr female with concentric sclerosis presented with
   worsening MS transferred for Rx with Cytoxan for agitation to be
   intubated to get Chemo Rx
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Got chemo/plasmapheresis on Vent. Extubated Thursday. Post extub -
   agitated treated with Ativan/Elanzopine. Remains agitated. Trouble with
   placing Dobhoff.
   24 Hour Events:
 MIDLINE - STOP [**2145-1-22**] 08:00 AM
   Rt upper arm
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin - [**2145-1-22**] 04:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-23**] 04:00 AM
   Ciprofloxacin - [**2145-1-23**] 05:00 AM
   Vancomycin - [**2145-1-23**] 08:09 AM
   Infusions:
   Dexmedetomidine (Precedex) - 0.5 mcg/Kg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2145-1-22**] 02:26 PM
   Furosemide (Lasix) - [**2145-1-22**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-23**] 05:49 AM
   Pantoprazole (Protonix) - [**2145-1-23**] 08:00 AM
   Lorazepam (Ativan) - [**2145-1-23**] 08:00 AM
   Other medications:
   RISS, filgastrin, solumedrol 125 q 4, olanzapine, atorvaquone, ativan 4
   tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-23**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 81 (70 - 155) bpm
   BP: 97/65(61) {88/44(55) - 120/68(80)} mmHg
   RR: 17 (13 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,471 mL
                                                                  1,051 mL
   PO:
             TF:
   IVF:
                                                                  1,471 mL
                                                                    991 mL
   Blood products:
   Total out:
                                                                  2,240 mL
                                                                    590 mL
   Urine:
                                                                  2,240 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -769 mL
                                                                    461 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 90%
   ABG: ///27/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: Bases bilat)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Oriented (to): Not responding, Movement: Not assessed, Sedated, Tone:
   Normal
   Labs / Radiology
   10.1 g/dL
   343 K/uL
   120 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.0 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   28.2 %
   0.6 K/uL
        [image002.jpg]
                             [**2145-1-18**]  01:46 AM
                             [**2145-1-18**]  05:00 AM
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
   WBC
   5.2
   2.8
   1.7
   0.8
   0.5
   0.6
   Hct
   28.8
   25.9
   25.1
   26.6
   29.9
   27.5
   28.2
   Plt
   [**Telephone/Fax (3) 1084**]56
   327
   343
   Cr
   0.5
   0.5
   0.4
   0.5
   0.6
   0.6
   TCO2
   37
   35
   37
   Glucose
   97
   134
   97
   98
   107
   120
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR - l diaphragm hazy
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
   On multiple Ab - On Cipro
 NEUTROPENIA
   Chemo related
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   doing well on supplemental oxygen - VAP, obesity, ? mucous plugging,
   some CHF
   Will diurese, attempt to mobilize out of bed, Chest PT as tolerates,
   encourage use of Incentive Spirometer
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Vanco, Zosyn, Cipro - afebrile
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   Chemo Rx completed, Completed  Plasmapheresis, solumedrol
 DELIRIUM / CONFUSION
   Off presidex, continue Ativan
   ICU Care
   Nutrition:
   Comments: NPO until NG confirmed to be in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   20 Gauge - [**2145-1-22**] 08:00 PM
   Comments: In for PICC
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2145-01-24 08:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Remained agitated during the day on standing lorazepam and zyprexa
   continued steroid taper
   Dobhoff tube d/c'ed as rpt films showed it to be in the GE junction
   SUBJECTIVE:
   Nods that she is in pain
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin - [**2145-1-22**] 04:02 AM
   Vancomycin - [**2145-1-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-24**] 04:00 AM
   Ciprofloxacin - [**2145-1-24**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-23**] 08:00 AM
   Furosemide (Lasix) - [**2145-1-23**] 01:00 PM
   Lorazepam (Ativan) - [**2145-1-24**] 02:53 AM
   Heparin Sodium (Prophylaxis) - [**2145-1-24**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-24**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 132 (79 - 142) bpm
   BP: 126/64(79) {85/48(59) - 163/98(107)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,911 mL
                                                                    629 mL
   PO:
             TF:
   IVF:
                                                                  1,851 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                    250 mL
   Urine:
                                                                  4,580 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,669 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Awake, making eye contact, responding to commands but perseverating.
   S1, S2, tachycardic, no murmur
   Lungs with diminised BS at bases.
   Abd soft, NT, ND.  +BS
   Ext warm, well perfused.
   Labs / Radiology
   414 K/uL
   12.1 g/dL
   110 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.2 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   35.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
                             [**2145-1-23**]  07:16 PM
                             [**2145-1-24**]  05:55 AM
   WBC
   2.8
   1.7
   0.8
   0.5
   0.6
   3.8
   Hct
   25.9
   25.1
   26.6
   29.9
   27.5
   28.2
   35.7
   Plt
   [**Telephone/Fax (3) 1121**]27
   343
   414
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.8
   1.2
   TCO2
   35
   37
   Glucose
   134
   97
   98
   107
   120
   98
   110
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Vanc trough 28.9
   BAL from [**1-17**] with MSSA
   BCx [**1-21**] NGTD
   CXR [**1-23**]:
   Mild-to-moderate pulmonary edema has recurred in the setting of a persi
   stent
   moderate cardiomegaly and severe mediastinal vascular engorgement, cons
   istent
   with volume overload.  As before, the feeding tube ends in the esophagu
   s, at
   least 10 cm proximal to standard placement in the stomach.  No pneumoth
   orax.
   Assessment and Plan
   27yo woman with concentric sclerosis admitted for cyclophosphamide
   treatment.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   In setting of obesity, fluid overload, VAP, and mucous plugging.  Now
   improving with decreased O2 requirement.
   -          s/p diuresis yesterday
   -          although cultures growing MSSA, patient became febrile when
   Abx changed from vanc to nafcillin, so team decided to continue with
   full course of vancomycin
   -          day 7 of 8 of broad spectrum antibiotics for VAP
   (vanc/zosyn); as vancomycin is supratherapeutic today, will not give
   additional doses of vanc
   # Acute Renal Failure:
   Probably due to aggressive diuresis yesterday.
   -          fluid challenge and reassess HR, Cr, and urine output
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   -          s/p pheresis and cyclophosphamide
   -          continue steroid taper
   -          appreciate recommendations from Dr. [**Last Name (STitle) **]
 NEUTROPENIA
   Secondary to cyclophosphamide.  Neutropenia resolved.
   -          continue neupogen for 48 hours after ANC > 1000
   -          will discontinue atovaquone
 DELIRIUM / CONFUSION
   Secondary to extensive CNS disease and prolonged sedation.
   -          continue standing ativan and zyprexa
 URINARY TRACT INFECTION (UTI)
   Ucx growing E coli.  Given that pt has Foley, plan on 14 day course of
   cipro (last day [**1-28**]).
   ICU Care
   Nutrition: will ask for speech and swallow eval given that mental
   status improving and NG tube removed [**1-23**]
   Glycemic Control:  SSI with good sugar control
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   20 Gauge - [**2145-1-22**] 08:00 PM
   Plan for PICC placed by IR [**1-25**]
   Prophylaxis:
   DVT: subQ heparin
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-01-24 11:36:00 Physician Attending Progress Note
Chief Complaint: Concentric Sclerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Tapering steroids, less agitated, more responsive
   24 Hour Events:
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Piperacillin - [**2145-1-22**] 04:02 AM
   Vancomycin - [**2145-1-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-24**] 04:00 AM
   Ciprofloxacin - [**2145-1-24**] 05:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-1-23**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-24**] 06:11 AM
   Pantoprazole (Protonix) - [**2145-1-24**] 08:00 AM
   Lorazepam (Ativan) - [**2145-1-24**] 09:30 AM
   Other medications:
   riss, nupagen, elanzopine, atorvaquone (held), solumedrol 60 q 24h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-24**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 145 (80 - 152) bpm
   BP: 139/41(68) {85/41(59) - 163/98(107)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  1,911 mL
                                                                  1,310 mL
   PO:
             TF:
   IVF:
                                                                  1,851 mL
                                                                  1,310 mL
   Blood products:
   Total out:
                                                                  4,580 mL
                                                                    360 mL
   Urine:
                                                                  4,580 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,669 mL
                                                                    950 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): 0, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.1 g/dL
   414 K/uL
   110 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.2 mEq/L
   14 mg/dL
   104 mEq/L
   144 mEq/L
   35.7 %
   3.8 K/uL
        [image002.jpg]
                             [**2145-1-18**]  02:21 PM
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
                             [**2145-1-23**]  07:16 PM
                             [**2145-1-24**]  05:55 AM
   WBC
   2.8
   1.7
   0.8
   0.5
   0.6
   3.8
   Hct
   25.9
   25.1
   26.6
   29.9
   27.5
   28.2
   35.7
   Plt
   [**Telephone/Fax (3) 1121**]27
   343
   414
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.8
   1.2
   TCO2
   35
   37
   Glucose
   134
   97
   98
   107
   120
   98
   110
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:9.3 mg/dL, Mg++:2.3 mg/dL, PO4:4.0 mg/dL
   Microbiology: BAL - MSSA
   BC - NGTD
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
   On Ciproflox
 NEUTROPENIA
   No longer neutropenic; stop filgastrin in 48 h
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   extubated doing well
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   Vanco, Zosyn,Cipro
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis
   Continue to taper steroids
 DELIRIUM / CONFUSION
   Better this AM on elanzopine/ativan
   >Tachycardia - volume depleted per lytes/crit - will replete intravasc
   volume
   ICU Care
   Nutrition:
   Comments: Will attempt to allow pt to drink/swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   Comments: In for Midline
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2145-01-25 06:25:00 Physician Resident Progress Note
Chief Complaint: concentric sclerosis
   24 Hour Events:
   gave back 2L of fluid in boluses in response to rising Cr
   got OOB to chair
   noted to be somewhat less agitated
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-25**] 04:30 AM
   Ciprofloxacin - [**2145-1-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-1-24**] 08:00 AM
   Lorazepam (Ativan) - [**2145-1-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-24**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-25**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 108 (103 - 155) bpm
   BP: 132/91(101) {94/41(68) - 155/97(105)} mmHg
   RR: 23 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,500 mL
                                                                    911 mL
   PO:
             TF:
   IVF:
                                                                  3,500 mL
                                                                    911 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    440 mL
   Urine:
                                                                  1,305 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,195 mL
                                                                    471 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, right pheresis
   cath in place
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), tachycardic w/ regular rythem
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: at bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   345 K/uL
   10.9
   108 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   14 mg/dL
   110
   145 mEq/L
   32.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2145-1-19**]  04:43 AM
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
                             [**2145-1-23**]  07:16 PM
                             [**2145-1-24**]  05:55 AM
                             [**2145-1-24**]  03:45 PM
   WBC
   2.8
   1.7
   0.8
   0.5
   0.6
   3.8
   Hct
   25.9
   25.1
   26.6
   29.9
   27.5
   28.2
   35.7
   Plt
   [**Telephone/Fax (3) 1121**]27
   343
   414
   Cr
   0.5
   0.4
   0.5
   0.6
   0.6
   0.8
   1.2
   1.3
   TCO2
   37
   Glucose
   134
   97
   98
   107
   120
   98
   110
   143
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:8.9 mg/dL, Mg++:2.4 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   27 y/o female /w concentric sclerosis admitted for cyclophosphamide
   treatment, transferred to MICU [**1-2**] to agitation
 Concentric scerlosis:
   -          s/p pheresis and cyclophosphomide
   -          continue steroid taper, currently at 60mg daily of
   methylprednisone
   -          patient followed by Dr. [**Last Name (STitle) **] of neurology, appreciate recs
 URINARY TRACT INFECTION (UTI)
   -          Pt had grown E. Coli from urine.  Started on ciprofloxacin,
   with planned 14 day course given foley catheter. (day 14= [**1-28**])
   -          Last UA essentially cleared of infection, pt does not
   complain of urinary sx
   -          New foley in place, needed to monitor I/Os in setting of ARF
 NEUTROPENIA
   -          secondary to chemotherapy, now resolved
   -          as patient no longer neutrapenic, neupogen d/c
d today
   -          leukocytosis likely [**1-2**] to neupogen + steroids
 DELERIUM/CONFUSION
   -          secondary to extensive CNS disease and prolonged sedation.
   -          Marked improvement today, no longer requiring restraints
   -          Will switch zyprexa / Ativan to PRNs
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   -          Pt now extudated, w/ respiratory failure in the setting of
   obesity, fluid overload, and mucous plugging.
   -          s/p diuresis
   -          Pt developed VAP, cultures growing MSSA, but pt became
   febrile whe abx changed from vanc to nafcillin.
   -          Pt completed course of vanc, and on day [**7-9**] of zosyn
   -          No current O2 requirement
 ACUTE RENAL FAILURE
   -          believed to be secondary to over diursis, but Cr continued
   to rise despite fluid challenge
   -          patient still making adequate urine
   -          will check urine lytes and eos, may have ATN or AIN in
   setting of nephrotoxic meds
   -          follow I/Os, foley in place, trend Cr
   ICU Care
   Nutrition: Patient passed swallow study today; nectar pre-thickened and
   pureed liquids
   Glycemic Control:  Regular insulin sliding scale wppg good sugar
   control
   Lines:
   Pheresis Catheter - [**2145-1-13**] 03:30 PM
   20 Gauge
 [**2145-1-22**] 8:00 PM
   Plan for PICC placed by IR [**1-25**]
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI [**Hospital1 **]
   VAP:  s/p vanc/zosyn
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-01-25 12:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Cr bump, given fluids
   Mental status clearer/agitation improving
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Prednisone
   psychosis;
   Sulfa (Sulfonamides)
   Rash;
   Phenytoin Sodium
   psychosis;
   Last dose of Antibiotics:
   Vancomycin - [**2145-1-24**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-1-25**] 04:30 AM
   Ciprofloxacin - [**2145-1-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2145-1-24**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2145-1-25**] 06:00 AM
   Pantoprazole (Protonix) - [**2145-1-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-1-25**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 128 (87 - 144) bpm
   BP: 150/95(108) {114/59(74) - 155/97(108)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 178.2 kg (admission): 130.2 kg
   Height: 67 Inch
             Total In:
                                                                  3,500 mL
                                                                    984 mL
   PO:
             TF:
   IVF:
                                                                  3,500 mL
                                                                    984 mL
   Blood products:
   Total out:
                                                                  1,305 mL
                                                                    620 mL
   Urine:
                                                                  1,305 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,195 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.9 g/dL
   345 K/uL
   108 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.2 mEq/L
   14 mg/dL
   110 mEq/L
   145 mEq/L
   32.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2145-1-19**]  06:11 AM
                             [**2145-1-19**]  04:45 PM
                             [**2145-1-20**]  04:09 AM
                             [**2145-1-21**]  04:56 AM
                             [**2145-1-22**]  04:57 AM
                             [**2145-1-23**]  05:30 AM
                             [**2145-1-23**]  07:16 PM
                             [**2145-1-24**]  05:55 AM
                             [**2145-1-24**]  03:45 PM
                             [**2145-1-25**]  05:34 AM
   WBC
   1.7
   0.8
   0.5
   0.6
   3.8
   11.5
   Hct
   25.1
   26.6
   29.9
   27.5
   28.2
   35.7
   32.5
   Plt
   297
   356
   327
   343
   414
   345
   Cr
   0.4
   0.5
   0.6
   0.6
   0.8
   1.2
   1.3
   1.5
   TCO2
   37
   Glucose
   97
   98
   107
   120
   98
   110
   143
   108
   Other labs: PT / PTT / INR:12.9/26.0/1.1, ALT / AST:14/18, Alk Phos / T
   Bili:42/0.6, Differential-Neuts:90.6 %, Lymph:4.9 %, Mono:4.4 %,
   Eos:0.1 %, Fibrinogen:332 mg/dL, Lactic Acid:0.7 mmol/L, Albumin:3.4
   g/dL, LDH:119 IU/L, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   27 yo F with concentric sclerosis s/p cyclophasphamide treatment with
   resolving agitation delirium now with increasing creatinine
   # ARF: Not responsive to 2L NS fluid challenge, UNa elevated so
   unlikely pre-renal. [**Month (only) 60**] be due to cytoxan or zosyn, AIN or ATN
   - D/C zosyn, follow Cr and UOP
 DELIRIUM / CONFUSION: dramatically improved.
   - Change standing zyprexa and ativan to PRN
 URINARY TRACT INFECTION (UTI)
   Day [**6-10**] of Cipro. Repeat UA with WBC and Bact. Foley changed
   -          d/c Foley when mental status allows
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Concentric Sclerosis: clinically improving on current therapy.
   -          Continue steroids per Dr.[**Name (NI) 1154**] recommendations
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   - Completing treatment course with Vanc/Zosyn today, stable sats on NC
   O2
 NEUTROPENIA: resolved. D/C GCSF
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]): resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: pull plasmaphoresis SVL now that picc in place
   Phoresis Catheter - [**2145-1-13**] 03:30 PM
   Prophylaxis:
   DVT: sq UF heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : monitor in ICU
reasses and if agitation remains under
   control would call out to floor bed this afternoon
   Total time spent:  35 min